US04036974
Thionyl chloride (10 ml.) and 1.55 g. of 1-[3'-(n-dodecyloxy)-2'-hydroxypropyl]imidazole are warmed gently for a period of 2 hours and the solution is then evaporated to dryness. The residue is dissolved in 100 ml. of dichloromethane and rendered basic with aqueous potassium carbonate solution. The organic layer is separated, dried over magnesium sulfate and evaporated to yield 1-[2'-chloro-3'-(n-dodecyloxy)propyl]imidazole.

reactant | 1-[3'-(n-dodecyloxy)-2'-hydroxypropyl]imidazole | C(CCCCCCCCCCC)OCC(CN1C=NC=C1)O | C18H34N2O2
reactant | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-[2'-chloro-3'-(n-dodecyloxy)propyl]imidazole | ClC(CN1C=NC=C1)COCCCCCCCCCCCC | C18H33ClN2O
